US05288776
Preparation of 2-ethyl-3-benzoyl-4-phenylpyrrole
The preparation is carried out in accordance with the general procedure in Example 1. The reactants are 2-phenylazirine and 1-phenylpentane-1,3-dione. The reaction product is dissolved in 150 ml of hot ethanol and the solution is allowed to stand overnight at room temperature. The precipitated crystals are filtered with suction.

reactant | 2-phenylazirine | C1(=CC=CC=C1)C=1NC1 | C8H7N
reactant | 1-phenylpentane-1,3-dione | C1(=CC=CC=C1)C(CC(CC)=O)=O | C11H12O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-ethyl-3-benzoyl-4-phenylpyrrole | C(C)C=1NC=C(C1C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H17NO
